US09388189B2
c) 2-Methyl-5-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-oxadiazole
2-(3-Bromophenyl)-5-methyl-1,3,4-oxadiazole (670 mg, 2.80 mmol) was treated with bis(pinacolato)diboron (1 g, 4.2 mmol), potassium acetate (825 mg, 8.41 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (115 mg, 0.14 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (78 mg, 0.14 mmol) according to the method described in Preparation 203. The crude was purified by SP1® Purification System (hexane-ethyl acetate) to give 350 mg (44% yield) of the title compound. Purity 100%.

reactant | 2-(3-Bromophenyl)-5-methyl-1,3,4-oxadiazole | 2.80 mmol, 670 mg | BrC=1C=C(C=CC1)C=1OC(=NN1)C | C9H7BrN2O
reactant | bis(pinacolato)diboron | 4.2 mmol, 1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.41 mmol, 825 mg | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.14 mmol, 78 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-Methyl-5-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-oxadiazole | 350 mg, 44% yield | CC=1OC(=NN1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C15H19BN2O3
